* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 -0.06692087662930465
Fd1_1 0 s1 V1 -3.346043831465233
Gr1_1_1 0 s1 x1_a1 0 1.293851335180596e+16
Gr2_1_1 0 s1 x2_a1 0 -1.3011036036204654e+16
Gr3_1_1 0 s1 x3_a1 0 6964552849526503.0
Gr4_1_1 0 s1 x4_a1 0 -7016070229035314.0
Gr5_1_1 0 s1 x5_a1 0 -1472109019618160.0
Gr6_1_1 0 s1 x6_a1 0 2313281913982967.0
Gr7_1_1 0 s1 x7_a1 0 -2.2949987275636228e+16
Gr8_1_1 0 s1 x8_a1 0 3.403431912593334e+16
Gr9_1_1 0 s1 x9_a1 0 -2.0361942716803354e+17
Gr10_1_1 0 s1 x10_a1 0 1.911799821768741e+18
Gr11_1_1 0 s1 x11_a1 0 2.0685006877615292e+19
Gr12_1_1 0 s1 x12_a1 0 -1.8592475335377736e+19
Gr13_re_1_1 0 s1 x13_re_a1 0 7.005635977931958e+16
Gr13_im_1_1 0 s1 x13_im_a1 0 -9.332070509052038e+16
Gr14_1_1 0 s1 x14_a1 0 -6.440102926314355e+18
Gr15_1_1 0 s1 x15_a1 0 2.519850731144732e+18
Gr16_re_1_1 0 s1 x16_re_a1 0 -1.7442414474466658e+16
Gr16_im_1_1 0 s1 x16_im_a1 0 -5422896712613843.0
Gr17_re_1_1 0 s1 x17_re_a1 0 1952958806329521.8
Gr17_im_1_1 0 s1 x17_im_a1 0 -1815265115619300.2
Gr18_re_1_1 0 s1 x18_re_a1 0 -745147176431084.8
Gr18_im_1_1 0 s1 x18_im_a1 0 -112884217138493.16
Gr19_re_1_1 0 s1 x19_re_a1 0 68783376732762.74
Gr19_im_1_1 0 s1 x19_im_a1 0 -16272353951823.607
Gr20_re_1_1 0 s1 x20_re_a1 0 -14828416852767.922
Gr20_im_1_1 0 s1 x20_im_a1 0 -8692403808553.338
Gr21_re_1_1 0 s1 x21_re_a1 0 604262057809.3713
Gr21_im_1_1 0 s1 x21_im_a1 0 465527000500.34393
Gr22_re_1_1 0 s1 x22_re_a1 0 -21092360792.019382
Gr22_im_1_1 0 s1 x22_im_a1 0 -82393426102.97432
Gr23_re_1_1 0 s1 x23_re_a1 0 119722066.5999518
Gr23_im_1_1 0 s1 x23_im_a1 0 887640260.9759065
Gr24_re_1_1 0 s1 x24_re_a1 0 13210067.341660768
Gr24_im_1_1 0 s1 x24_im_a1 0 19120399.85111371
Gr25_re_1_1 0 s1 x25_re_a1 0 13428206.971391294
Gr25_im_1_1 0 s1 x25_im_a1 0 13218184.584002595
Gd1_2 0 s1 p2 0 0.1402410995672816
Fd1_2 0 s1 V2 7.01205497836408
Gr1_1_2 0 s1 x1_a2 0 -3.1634653255785304e+16
Gr2_1_2 0 s1 x2_a2 0 3.1840442405805384e+16
Gr3_1_2 0 s1 x3_a2 0 -2.7787557440780996e+16
Gr4_1_2 0 s1 x4_a2 0 2.845547170655074e+16
Gr5_1_2 0 s1 x5_a2 0 -2.8678690769381988e+16
Gr6_1_2 0 s1 x6_a2 0 3.0738530920462572e+16
Gr7_1_2 0 s1 x7_a2 0 -4.226204064294748e+16
Gr8_1_2 0 s1 x8_a2 0 5.3900341173835736e+16
Gr9_1_2 0 s1 x9_a2 0 -1.8544266047516256e+17
Gr10_1_2 0 s1 x10_a2 0 1.5655549513690719e+18
Gr11_1_2 0 s1 x11_a2 0 1.692449516916739e+19
Gr12_1_2 0 s1 x12_a2 0 -1.5093742235856736e+19
Gr13_re_1_2 0 s1 x13_re_a2 0 7.704321161954176e+16
Gr13_im_1_2 0 s1 x13_im_a2 0 -5.5914500518465256e+16
Gr14_1_2 0 s1 x14_a2 0 -5.739437059248741e+18
Gr15_1_2 0 s1 x15_a2 0 2.3793902346816113e+18
Gr16_re_1_2 0 s1 x16_re_a2 0 -1.1749918078175734e+16
Gr16_im_1_2 0 s1 x16_im_a2 0 -1.316362232793118e+16
Gr17_re_1_2 0 s1 x17_re_a2 0 2214231458576592.5
Gr17_im_1_2 0 s1 x17_im_a2 0 278181322003473.53
Gr18_re_1_2 0 s1 x18_re_a2 0 -253245466704814.16
Gr18_im_1_2 0 s1 x18_im_a2 0 -666152515260318.2
Gr19_re_1_2 0 s1 x19_re_a2 0 29751923799717.58
Gr19_im_1_2 0 s1 x19_im_a2 0 58362546481163.64
Gr20_re_1_2 0 s1 x20_re_a2 0 6494223632141.011
Gr20_im_1_2 0 s1 x20_im_a2 0 -15726846204230.58
Gr21_re_1_2 0 s1 x21_re_a2 0 -465424749232.9238
Gr21_im_1_2 0 s1 x21_im_a2 0 642045760534.7325
Gr22_re_1_2 0 s1 x22_re_a2 0 87954559172.65974
Gr22_im_1_2 0 s1 x22_im_a2 0 -27088864351.20313
Gr23_re_1_2 0 s1 x23_re_a2 0 -1080757492.1798992
Gr23_im_1_2 0 s1 x23_im_a2 0 558396247.8631948
Gr24_re_1_2 0 s1 x24_re_a2 0 -24814971.32023758
Gr24_im_1_2 0 s1 x24_im_a2 0 -13286020.396696785
Gr25_re_1_2 0 s1 x25_re_a2 0 -21994095.25389326
Gr25_im_1_2 0 s1 x25_im_a2 0 7745780.322609181
*
* State networks driven by port 1
Cx1_a1 x1_a1 0 1.0
Gx1_a1 0 x1_a1 p1 0 0.07071067811865475
Fx1_a1 0 x1_a1 V1 3.5355339059327378
Rp1_a1 0 x1_a1 2.512277747794714e-13
Cx2_a1 x2_a1 0 1.0
Gx2_a1 0 x2_a1 p1 0 0.07071067811865475
Fx2_a1 0 x2_a1 V1 3.5355339059327378
Rp2_a1 0 x2_a1 2.521768229200371e-13
Cx3_a1 x3_a1 0 1.0
Gx3_a1 0 x3_a1 p1 0 0.07071067811865475
Fx3_a1 0 x3_a1 V1 3.5355339059327378
Rp3_a1 0 x3_a1 5.833141666906741e-13
Cx4_a1 x4_a1 0 1.0
Gx4_a1 0 x4_a1 p1 0 0.07071067811865475
Fx4_a1 0 x4_a1 V1 3.5355339059327378
Rp4_a1 0 x4_a1 5.907744681314218e-13
Cx5_a1 x5_a1 0 1.0
Gx5_a1 0 x5_a1 p1 0 0.07071067811865475
Fx5_a1 0 x5_a1 V1 3.5355339059327378
Rp5_a1 0 x5_a1 1.0932011128114772e-12
Cx6_a1 x6_a1 0 1.0
Gx6_a1 0 x6_a1 p1 0 0.07071067811865475
Fx6_a1 0 x6_a1 V1 3.5355339059327378
Rp6_a1 0 x6_a1 1.1318942513671989e-12
Cx7_a1 x7_a1 0 1.0
Gx7_a1 0 x7_a1 p1 0 0.07071067811865475
Fx7_a1 0 x7_a1 V1 3.5355339059327378
Rp7_a1 0 x7_a1 1.916954049759687e-12
Cx8_a1 x8_a1 0 1.0
Gx8_a1 0 x8_a1 p1 0 0.07071067811865475
Fx8_a1 0 x8_a1 V1 3.5355339059327378
Rp8_a1 0 x8_a1 2.083008102949528e-12
Cx9_a1 x9_a1 0 1.0
Gx9_a1 0 x9_a1 p1 0 0.07071067811865475
Fx9_a1 0 x9_a1 V1 3.5355339059327378
Rp9_a1 0 x9_a1 3.3348262644026674e-12
Cx10_a1 x10_a1 0 1.0
Gx10_a1 0 x10_a1 p1 0 0.07071067811865475
Fx10_a1 0 x10_a1 V1 3.5355339059327378
Rp10_a1 0 x10_a1 4.217188302520503e-12
Cx11_a1 x11_a1 0 1.0
Gx11_a1 0 x11_a1 p1 0 0.07071067811865475
Fx11_a1 0 x11_a1 V1 3.5355339059327378
Rp11_a1 0 x11_a1 5.329951538569007e-12
Cx12_a1 x12_a1 0 1.0
Gx12_a1 0 x12_a1 p1 0 0.07071067811865475
Fx12_a1 0 x12_a1 V1 3.5355339059327378
Rp12_a1 0 x12_a1 5.082380319253621e-12
Cx13_re_a1 x13_re_a1 0 1.0
Gx13_re_a1 0 x13_re_a1 p1 0 0.1414213562373095
Fx13_re_a1 0 x13_re_a1 V1 7.0710678118654755
Rp13_re_re_a1 0 x13_re_a1 7.8141120428751e-12
Gp13_re_im_a1 0 x13_re_a1 x13_im_a1 0 60654362197.671005
Cx13_im_a1 x13_im_a1 0 1.0
Gp13_im_re_a1 0 x13_im_a1 x13_re_a1 0 -60654362197.671005
Rp13_im_im_a1 0 x13_im_a1 7.8141120428751e-12
Cx14_a1 x14_a1 0 1.0
Gx14_a1 0 x14_a1 p1 0 0.07071067811865475
Fx14_a1 0 x14_a1 V1 3.5355339059327378
Rp14_a1 0 x14_a1 6.665182664401012e-12
Cx15_a1 x15_a1 0 1.0
Gx15_a1 0 x15_a1 p1 0 0.07071067811865475
Fx15_a1 0 x15_a1 V1 3.5355339059327378
Rp15_a1 0 x15_a1 7.329614040176546e-12
Cx16_re_a1 x16_re_a1 0 1.0
Gx16_re_a1 0 x16_re_a1 p1 0 0.1414213562373095
Fx16_re_a1 0 x16_re_a1 V1 7.0710678118654755
Rp16_re_re_a1 0 x16_re_a1 1.0696158676576935e-11
Gp16_re_im_a1 0 x16_re_a1 x16_im_a1 0 59730960528.67284
Cx16_im_a1 x16_im_a1 0 1.0
Gp16_im_re_a1 0 x16_im_a1 x16_re_a1 0 -59730960528.67284
Rp16_im_im_a1 0 x16_im_a1 1.0696158676576935e-11
Cx17_re_a1 x17_re_a1 0 1.0
Gx17_re_a1 0 x17_re_a1 p1 0 0.1414213562373095
Fx17_re_a1 0 x17_re_a1 V1 7.0710678118654755
Rp17_re_re_a1 0 x17_re_a1 1.3586557326283872e-11
Gp17_re_im_a1 0 x17_re_a1 x17_im_a1 0 83936957303.94641
Cx17_im_a1 x17_im_a1 0 1.0
Gp17_im_re_a1 0 x17_im_a1 x17_re_a1 0 -83936957303.94641
Rp17_im_im_a1 0 x17_im_a1 1.3586557326283872e-11
Cx18_re_a1 x18_re_a1 0 1.0
Gx18_re_a1 0 x18_re_a1 p1 0 0.1414213562373095
Fx18_re_a1 0 x18_re_a1 V1 7.0710678118654755
Rp18_re_re_a1 0 x18_re_a1 1.748445992882195e-11
Gp18_re_im_a1 0 x18_re_a1 x18_im_a1 0 80318437017.90982
Cx18_im_a1 x18_im_a1 0 1.0
Gp18_im_re_a1 0 x18_im_a1 x18_re_a1 0 -80318437017.90982
Rp18_im_im_a1 0 x18_im_a1 1.748445992882195e-11
Cx19_re_a1 x19_re_a1 0 1.0
Gx19_re_a1 0 x19_re_a1 p1 0 0.1414213562373095
Fx19_re_a1 0 x19_re_a1 V1 7.0710678118654755
Rp19_re_re_a1 0 x19_re_a1 2.601008468738169e-11
Gp19_re_im_a1 0 x19_re_a1 x19_im_a1 0 88168642223.13809
Cx19_im_a1 x19_im_a1 0 1.0
Gp19_im_re_a1 0 x19_im_a1 x19_re_a1 0 -88168642223.13809
Rp19_im_im_a1 0 x19_im_a1 2.601008468738169e-11
Cx20_re_a1 x20_re_a1 0 1.0
Gx20_re_a1 0 x20_re_a1 p1 0 0.1414213562373095
Fx20_re_a1 0 x20_re_a1 V1 7.0710678118654755
Rp20_re_re_a1 0 x20_re_a1 3.426598278208426e-11
Gp20_re_im_a1 0 x20_re_a1 x20_im_a1 0 85501611005.95302
Cx20_im_a1 x20_im_a1 0 1.0
Gp20_im_re_a1 0 x20_im_a1 x20_re_a1 0 -85501611005.95302
Rp20_im_im_a1 0 x20_im_a1 3.426598278208426e-11
Cx21_re_a1 x21_re_a1 0 1.0
Gx21_re_a1 0 x21_re_a1 p1 0 0.1414213562373095
Fx21_re_a1 0 x21_re_a1 V1 7.0710678118654755
Rp21_re_re_a1 0 x21_re_a1 6.219938567024043e-11
Gp21_re_im_a1 0 x21_re_a1 x21_im_a1 0 85669955015.64622
Cx21_im_a1 x21_im_a1 0 1.0
Gp21_im_re_a1 0 x21_im_a1 x21_re_a1 0 -85669955015.64622
Rp21_im_im_a1 0 x21_im_a1 6.219938567024043e-11
Cx22_re_a1 x22_re_a1 0 1.0
Gx22_re_a1 0 x22_re_a1 p1 0 0.1414213562373095
Fx22_re_a1 0 x22_re_a1 V1 7.0710678118654755
Rp22_re_re_a1 0 x22_re_a1 9.896451131610993e-11
Gp22_re_im_a1 0 x22_re_a1 x22_im_a1 0 83424784261.5721
Cx22_im_a1 x22_im_a1 0 1.0
Gp22_im_re_a1 0 x22_im_a1 x22_re_a1 0 -83424784261.5721
Rp22_im_im_a1 0 x22_im_a1 9.896451131610993e-11
Cx23_re_a1 x23_re_a1 0 1.0
Gx23_re_a1 0 x23_re_a1 p1 0 0.1414213562373095
Fx23_re_a1 0 x23_re_a1 V1 7.0710678118654755
Rp23_re_re_a1 0 x23_re_a1 4.585433644129562e-10
Gp23_re_im_a1 0 x23_re_a1 x23_im_a1 0 81182321330.01721
Cx23_im_a1 x23_im_a1 0 1.0
Gp23_im_re_a1 0 x23_im_a1 x23_re_a1 0 -81182321330.01721
Rp23_im_im_a1 0 x23_im_a1 4.585433644129562e-10
Cx24_re_a1 x24_re_a1 0 1.0
Gx24_re_a1 0 x24_re_a1 p1 0 0.1414213562373095
Fx24_re_a1 0 x24_re_a1 V1 7.0710678118654755
Rp24_re_re_a1 0 x24_re_a1 1.5968693936132816e-08
Gp24_re_im_a1 0 x24_re_a1 x24_im_a1 0 73355294995.23828
Cx24_im_a1 x24_im_a1 0 1.0
Gp24_im_re_a1 0 x24_im_a1 x24_re_a1 0 -73355294995.23828
Rp24_im_im_a1 0 x24_im_a1 1.5968693936132816e-08
Cx25_re_a1 x25_re_a1 0 1.0
Gx25_re_a1 0 x25_re_a1 p1 0 0.1414213562373095
Fx25_re_a1 0 x25_re_a1 V1 7.0710678118654755
Rp25_re_re_a1 0 x25_re_a1 0.001269275418450332
Gp25_re_im_a1 0 x25_re_a1 x25_im_a1 0 62894684868.38657
Cx25_im_a1 x25_im_a1 0 1.0
Gp25_im_re_a1 0 x25_im_a1 x25_re_a1 0 -62894684868.38657
Rp25_im_im_a1 0 x25_im_a1 0.001269275418450332
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 0.1402410995672816
Fd2_1 0 s2 V1 7.01205497836408
Gr1_2_1 0 s2 x1_a1 0 -3.1634653255269708e+16
Gr2_2_1 0 s2 x2_a1 0 3.1840442405278764e+16
Gr3_2_1 0 s2 x3_a1 0 -2.778755743660774e+16
Gr4_2_1 0 s2 x4_a1 0 2.8455471702143104e+16
Gr5_2_1 0 s2 x5_a1 0 -2.867869075124107e+16
Gr6_2_1 0 s2 x6_a1 0 3.0738530899504384e+16
Gr7_2_1 0 s2 x7_a1 0 -4.22620405589811e+16
Gr8_2_1 0 s2 x8_a1 0 5.390034104885211e+16
Gr9_2_1 0 s2 x9_a1 0 -1.8544265955604755e+17
Gr10_2_1 0 s2 x10_a1 0 1.5655549410804134e+18
Gr11_2_1 0 s2 x11_a1 0 1.6924495032150667e+19
Gr12_2_1 0 s2 x12_a1 0 -1.509374211806072e+19
Gr13_re_2_1 0 s2 x13_re_a1 0 7.704321073080288e+16
Gr13_im_2_1 0 s2 x13_im_a1 0 -5.591450009020894e+16
Gr14_2_1 0 s2 x14_a1 0 -5.739437005908805e+18
Gr15_2_1 0 s2 x15_a1 0 2.379390211576985e+18
Gr16_re_2_1 0 s2 x16_re_a1 0 -1.174991796570197e+16
Gr16_im_2_1 0 s2 x16_im_a1 0 -1.3163622163855384e+16
Gr17_re_2_1 0 s2 x17_re_a1 0 2214231432524770.2
Gr17_im_2_1 0 s2 x17_im_a1 0 278181315195103.06
Gr18_re_2_1 0 s2 x18_re_a1 0 -253245464494472.62
Gr18_im_2_1 0 s2 x18_im_a1 0 -666152506885594.4
Gr19_re_2_1 0 s2 x19_re_a1 0 29751923521458.41
Gr19_im_2_1 0 s2 x19_im_a1 0 58362545723461.734
Gr20_re_2_1 0 s2 x20_re_a1 0 6494223519022.291
Gr20_im_2_1 0 s2 x20_im_a1 0 -15726846019171.516
Gr21_re_2_1 0 s2 x21_re_a1 0 -465424739810.78485
Gr21_im_2_1 0 s2 x21_im_a1 0 642045754871.7919
Gr22_re_2_1 0 s2 x22_re_a1 0 87954557673.40492
Gr22_im_2_1 0 s2 x22_im_a1 0 -27088865107.61571
Gr23_re_2_1 0 s2 x23_re_a1 0 -1080757500.7116656
Gr23_im_2_1 0 s2 x23_im_a1 0 558396271.7132386
Gr24_re_2_1 0 s2 x24_re_a1 0 -24814978.728498
Gr24_im_2_1 0 s2 x24_im_a1 0 -13286003.107856587
Gr25_re_2_1 0 s2 x25_re_a1 0 -21994085.618184578
Gr25_im_2_1 0 s2 x25_im_a1 0 7745785.079483336
Gd2_2 0 s2 p2 0 -0.04240336725412606
Fd2_2 0 s2 V2 -2.120168362706303
Gr1_2_2 0 s2 x1_a2 0 8662839266345863.0
Gr2_2_2 0 s2 x2_a2 0 -8713880403532325.0
Gr3_2_2 0 s2 x3_a2 0 5413994034433212.0
Gr4_2_2 0 s2 x4_a2 0 -5482765737042953.0
Gr5_2_2 0 s2 x5_a2 0 764479181753326.1
Gr6_2_2 0 s2 x6_a2 0 -394839350184003.7
Gr7_2_2 0 s2 x7_a2 0 -1.1143219082437468e+16
Gr8_2_2 0 s2 x8_a2 0 1.706786676853202e+16
Gr9_2_2 0 s2 x9_a2 0 -1.1014082616266206e+17
Gr10_2_2 0 s2 x10_a2 0 1.0334921763081295e+18
Gr11_2_2 0 s2 x11_a2 0 1.093660619077981e+19
Gr12_2_2 0 s2 x12_a2 0 -9.893559108066111e+18
Gr13_re_2_2 0 s2 x13_re_a2 0 3.1049815035026e+16
Gr13_im_2_2 0 s2 x13_im_a2 0 -5.365368566920761e+16
Gr14_2_2 0 s2 x14_a2 0 -3.251836081904698e+18
Gr15_2_2 0 s2 x15_a2 0 1.2356762974608678e+18
Gr16_re_2_2 0 s2 x16_re_a2 0 -9680689563535600.0
Gr16_im_2_2 0 s2 x16_im_a2 0 -652286306097423.8
Gr17_re_2_2 0 s2 x17_re_a2 0 876392137222192.9
Gr17_im_2_2 0 s2 x17_im_a2 0 -1363487901858339.5
Gr18_re_2_2 0 s2 x18_re_a2 0 -479615124993844.44
Gr18_im_2_2 0 s2 x18_im_a2 0 74093493905455.02
Gr19_re_2_2 0 s2 x19_re_a2 0 43971826519146.91
Gr19_im_2_2 0 s2 x19_im_a2 0 -24765484147639.637
Gr20_re_2_2 0 s2 x20_re_a2 0 -12569042061296.16
Gr20_im_2_2 0 s2 x20_im_a2 0 -3068181887063.051
Gr21_re_2_2 0 s2 x21_re_a2 0 579924437049.8849
Gr21_im_2_2 0 s2 x21_im_a2 0 231781322850.10776
Gr22_re_2_2 0 s2 x22_re_a2 0 -37982868825.289986
Gr22_im_2_2 0 s2 x22_im_a2 0 -63287505824.53815
Gr23_re_2_2 0 s2 x23_re_a2 0 300991763.32204217
Gr23_im_2_2 0 s2 x23_im_a2 0 881173272.3872215
Gr24_re_2_2 0 s2 x24_re_a2 0 21704969.802429937
Gr24_im_2_2 0 s2 x24_im_a2 0 20370715.464429196
Gr25_re_2_2 0 s2 x25_re_a2 0 9969720.495567536
Gr25_im_2_2 0 s2 x25_im_a2 0 -3049142.670050799
*
* State networks driven by port 2
Cx1_a2 x1_a2 0 1.0
Gx1_a2 0 x1_a2 p2 0 0.07071067811865475
Fx1_a2 0 x1_a2 V2 3.5355339059327378
Rp1_a2 0 x1_a2 2.512277747794714e-13
Cx2_a2 x2_a2 0 1.0
Gx2_a2 0 x2_a2 p2 0 0.07071067811865475
Fx2_a2 0 x2_a2 V2 3.5355339059327378
Rp2_a2 0 x2_a2 2.521768229200371e-13
Cx3_a2 x3_a2 0 1.0
Gx3_a2 0 x3_a2 p2 0 0.07071067811865475
Fx3_a2 0 x3_a2 V2 3.5355339059327378
Rp3_a2 0 x3_a2 5.833141666906741e-13
Cx4_a2 x4_a2 0 1.0
Gx4_a2 0 x4_a2 p2 0 0.07071067811865475
Fx4_a2 0 x4_a2 V2 3.5355339059327378
Rp4_a2 0 x4_a2 5.907744681314218e-13
Cx5_a2 x5_a2 0 1.0
Gx5_a2 0 x5_a2 p2 0 0.07071067811865475
Fx5_a2 0 x5_a2 V2 3.5355339059327378
Rp5_a2 0 x5_a2 1.0932011128114772e-12
Cx6_a2 x6_a2 0 1.0
Gx6_a2 0 x6_a2 p2 0 0.07071067811865475
Fx6_a2 0 x6_a2 V2 3.5355339059327378
Rp6_a2 0 x6_a2 1.1318942513671989e-12
Cx7_a2 x7_a2 0 1.0
Gx7_a2 0 x7_a2 p2 0 0.07071067811865475
Fx7_a2 0 x7_a2 V2 3.5355339059327378
Rp7_a2 0 x7_a2 1.916954049759687e-12
Cx8_a2 x8_a2 0 1.0
Gx8_a2 0 x8_a2 p2 0 0.07071067811865475
Fx8_a2 0 x8_a2 V2 3.5355339059327378
Rp8_a2 0 x8_a2 2.083008102949528e-12
Cx9_a2 x9_a2 0 1.0
Gx9_a2 0 x9_a2 p2 0 0.07071067811865475
Fx9_a2 0 x9_a2 V2 3.5355339059327378
Rp9_a2 0 x9_a2 3.3348262644026674e-12
Cx10_a2 x10_a2 0 1.0
Gx10_a2 0 x10_a2 p2 0 0.07071067811865475
Fx10_a2 0 x10_a2 V2 3.5355339059327378
Rp10_a2 0 x10_a2 4.217188302520503e-12
Cx11_a2 x11_a2 0 1.0
Gx11_a2 0 x11_a2 p2 0 0.07071067811865475
Fx11_a2 0 x11_a2 V2 3.5355339059327378
Rp11_a2 0 x11_a2 5.329951538569007e-12
Cx12_a2 x12_a2 0 1.0
Gx12_a2 0 x12_a2 p2 0 0.07071067811865475
Fx12_a2 0 x12_a2 V2 3.5355339059327378
Rp12_a2 0 x12_a2 5.082380319253621e-12
Cx13_re_a2 x13_re_a2 0 1.0
Gx13_re_a2 0 x13_re_a2 p2 0 0.1414213562373095
Fx13_re_a2 0 x13_re_a2 V2 7.0710678118654755
Rp13_re_re_a2 0 x13_re_a2 7.8141120428751e-12
Gp13_re_im_a2 0 x13_re_a2 x13_im_a2 0 60654362197.671005
Cx13_im_a2 x13_im_a2 0 1.0
Gp13_im_re_a2 0 x13_im_a2 x13_re_a2 0 -60654362197.671005
Rp13_im_im_a2 0 x13_im_a2 7.8141120428751e-12
Cx14_a2 x14_a2 0 1.0
Gx14_a2 0 x14_a2 p2 0 0.07071067811865475
Fx14_a2 0 x14_a2 V2 3.5355339059327378
Rp14_a2 0 x14_a2 6.665182664401012e-12
Cx15_a2 x15_a2 0 1.0
Gx15_a2 0 x15_a2 p2 0 0.07071067811865475
Fx15_a2 0 x15_a2 V2 3.5355339059327378
Rp15_a2 0 x15_a2 7.329614040176546e-12
Cx16_re_a2 x16_re_a2 0 1.0
Gx16_re_a2 0 x16_re_a2 p2 0 0.1414213562373095
Fx16_re_a2 0 x16_re_a2 V2 7.0710678118654755
Rp16_re_re_a2 0 x16_re_a2 1.0696158676576935e-11
Gp16_re_im_a2 0 x16_re_a2 x16_im_a2 0 59730960528.67284
Cx16_im_a2 x16_im_a2 0 1.0
Gp16_im_re_a2 0 x16_im_a2 x16_re_a2 0 -59730960528.67284
Rp16_im_im_a2 0 x16_im_a2 1.0696158676576935e-11
Cx17_re_a2 x17_re_a2 0 1.0
Gx17_re_a2 0 x17_re_a2 p2 0 0.1414213562373095
Fx17_re_a2 0 x17_re_a2 V2 7.0710678118654755
Rp17_re_re_a2 0 x17_re_a2 1.3586557326283872e-11
Gp17_re_im_a2 0 x17_re_a2 x17_im_a2 0 83936957303.94641
Cx17_im_a2 x17_im_a2 0 1.0
Gp17_im_re_a2 0 x17_im_a2 x17_re_a2 0 -83936957303.94641
Rp17_im_im_a2 0 x17_im_a2 1.3586557326283872e-11
Cx18_re_a2 x18_re_a2 0 1.0
Gx18_re_a2 0 x18_re_a2 p2 0 0.1414213562373095
Fx18_re_a2 0 x18_re_a2 V2 7.0710678118654755
Rp18_re_re_a2 0 x18_re_a2 1.748445992882195e-11
Gp18_re_im_a2 0 x18_re_a2 x18_im_a2 0 80318437017.90982
Cx18_im_a2 x18_im_a2 0 1.0
Gp18_im_re_a2 0 x18_im_a2 x18_re_a2 0 -80318437017.90982
Rp18_im_im_a2 0 x18_im_a2 1.748445992882195e-11
Cx19_re_a2 x19_re_a2 0 1.0
Gx19_re_a2 0 x19_re_a2 p2 0 0.1414213562373095
Fx19_re_a2 0 x19_re_a2 V2 7.0710678118654755
Rp19_re_re_a2 0 x19_re_a2 2.601008468738169e-11
Gp19_re_im_a2 0 x19_re_a2 x19_im_a2 0 88168642223.13809
Cx19_im_a2 x19_im_a2 0 1.0
Gp19_im_re_a2 0 x19_im_a2 x19_re_a2 0 -88168642223.13809
Rp19_im_im_a2 0 x19_im_a2 2.601008468738169e-11
Cx20_re_a2 x20_re_a2 0 1.0
Gx20_re_a2 0 x20_re_a2 p2 0 0.1414213562373095
Fx20_re_a2 0 x20_re_a2 V2 7.0710678118654755
Rp20_re_re_a2 0 x20_re_a2 3.426598278208426e-11
Gp20_re_im_a2 0 x20_re_a2 x20_im_a2 0 85501611005.95302
Cx20_im_a2 x20_im_a2 0 1.0
Gp20_im_re_a2 0 x20_im_a2 x20_re_a2 0 -85501611005.95302
Rp20_im_im_a2 0 x20_im_a2 3.426598278208426e-11
Cx21_re_a2 x21_re_a2 0 1.0
Gx21_re_a2 0 x21_re_a2 p2 0 0.1414213562373095
Fx21_re_a2 0 x21_re_a2 V2 7.0710678118654755
Rp21_re_re_a2 0 x21_re_a2 6.219938567024043e-11
Gp21_re_im_a2 0 x21_re_a2 x21_im_a2 0 85669955015.64622
Cx21_im_a2 x21_im_a2 0 1.0
Gp21_im_re_a2 0 x21_im_a2 x21_re_a2 0 -85669955015.64622
Rp21_im_im_a2 0 x21_im_a2 6.219938567024043e-11
Cx22_re_a2 x22_re_a2 0 1.0
Gx22_re_a2 0 x22_re_a2 p2 0 0.1414213562373095
Fx22_re_a2 0 x22_re_a2 V2 7.0710678118654755
Rp22_re_re_a2 0 x22_re_a2 9.896451131610993e-11
Gp22_re_im_a2 0 x22_re_a2 x22_im_a2 0 83424784261.5721
Cx22_im_a2 x22_im_a2 0 1.0
Gp22_im_re_a2 0 x22_im_a2 x22_re_a2 0 -83424784261.5721
Rp22_im_im_a2 0 x22_im_a2 9.896451131610993e-11
Cx23_re_a2 x23_re_a2 0 1.0
Gx23_re_a2 0 x23_re_a2 p2 0 0.1414213562373095
Fx23_re_a2 0 x23_re_a2 V2 7.0710678118654755
Rp23_re_re_a2 0 x23_re_a2 4.585433644129562e-10
Gp23_re_im_a2 0 x23_re_a2 x23_im_a2 0 81182321330.01721
Cx23_im_a2 x23_im_a2 0 1.0
Gp23_im_re_a2 0 x23_im_a2 x23_re_a2 0 -81182321330.01721
Rp23_im_im_a2 0 x23_im_a2 4.585433644129562e-10
Cx24_re_a2 x24_re_a2 0 1.0
Gx24_re_a2 0 x24_re_a2 p2 0 0.1414213562373095
Fx24_re_a2 0 x24_re_a2 V2 7.0710678118654755
Rp24_re_re_a2 0 x24_re_a2 1.5968693936132816e-08
Gp24_re_im_a2 0 x24_re_a2 x24_im_a2 0 73355294995.23828
Cx24_im_a2 x24_im_a2 0 1.0
Gp24_im_re_a2 0 x24_im_a2 x24_re_a2 0 -73355294995.23828
Rp24_im_im_a2 0 x24_im_a2 1.5968693936132816e-08
Cx25_re_a2 x25_re_a2 0 1.0
Gx25_re_a2 0 x25_re_a2 p2 0 0.1414213562373095
Fx25_re_a2 0 x25_re_a2 V2 7.0710678118654755
Rp25_re_re_a2 0 x25_re_a2 0.001269275418450332
Gp25_re_im_a2 0 x25_re_a2 x25_im_a2 0 62894684868.38657
Cx25_im_a2 x25_im_a2 0 1.0
Gp25_im_re_a2 0 x25_im_a2 x25_re_a2 0 -62894684868.38657
Rp25_im_im_a2 0 x25_im_a2 0.001269275418450332
.ENDS s_equivalent
