* ngspice channel smoke: audit_amp1p5_edge50_r50
.temp 27
.options method=gear maxord=2 reltol=1e-4 abstol=1e-10 vntol=1e-6 gmin=1e-12
Vin   src  0  PWL(0 0 1n 0 1.05e-09 1.5 9n 1.5 9.05e-09 0)
Rsrc  src  p1  50
.include 'C:/Users/sh3qm/code/ibis_comparison/results/sparam_vector_fit_campaign_v2_phase1_overnight_2026-06-18/channels/ntwk2_24638a5f/vf_hspice_audit/raw_vector_12r12c_lin_enforced_s2000_original_pdc0/ngspice/model.sp'
Xchannel  p1  p2  s_equivalent
Rterm  p2  0  50
.save V(p1) V(p2) V(src)
.tran 10p 3.5e-08
.end
